US04596816
60% Sodium hydride in oil (0.6 g) was added portionwise to a solution of diethyl malonate (4.8 g) in N,N-dimethylformamide (50 ml). The mixture was stirred for 10 minutes and a solution of 5-bromomethyl-4-(4-chlorophenyl)-2-methyloxazole (4.30 g) in N,N-dimethylformamide (20 ml) was added dropwise under ice-cooling. The mixture was stirred under ice-cooling for 30 minutes, diluted with water and extracted with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was then distilled off. The residue was dissolved in ethanol (30 ml), 2N sodium hydroxide (50 ml) was added, and the mixture was refluxed for 30 minutes, concentrated and washed with ethyl ether. The aqueous layer was acidified with hydrochloric acid and the precipitate was taken up with ethyl ether. The ethyl ether layer was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was dissolved in pyridine (30 ml). The solution was refluxed with stirring for an hour and the pyridine was distilled off. To the residue was added water and the mixture was adjusted to pH 2 with hydrochloric acid. The resulting crystalline precipitate was collected by filtration to give 4-(4-chlorophenyl)-2-methyloxazole-5-propionic acid, yield 2.50 g (62.8%). Recrystallization from ethanol gave needles, yield 1.85 g (46.5%), m.p. 211°-212° C.

reactant | Sodium hydride | [H-].[Na+]
reactant | diethyl malonate | 4.8 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 5-bromomethyl-4-(4-chlorophenyl)-2-methyloxazole | 4.30 g | BrCC1=C(N=C(O1)C)C1=CC=C(C=C1)Cl | C11H9BrClNO
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-(4-chlorophenyl)-2-methyloxazole-5-propionic acid | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)C | C13H12ClNO3
